US05872137
In a reaction vessel were placed 0.53 g of 4-(3-fluorophenyl)-3-buten-1-ol and 50 ml of ethyl acetate, and the air in the vessel was exchanged for nitrogen. Then, 0.1 g of 10% palladium carbon was added thereto, and the nitrogen in the vessel was exchanged for hydrogen, followed by vigorous stirring at room temperature for 24 hours. After the hydrogen in the vessel was exchanged for nitrogen, the reaction solution was filtered through a celite bed, and the filtrate was concentrated. The residue was subjected to silica gel chromatography, which afforded 0.48 g of 4-(3-fluorophenyl)-1-butanol.

reactant | 4-(3-fluorophenyl)-3-buten-1-ol | 0.53 g | FC=1C=C(C=CC1)C=CCCO | C10H11FO
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 0.1 g | [C].[Pd]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-(3-fluorophenyl)-1-butanol | 0.48 g | FC=1C=C(C=CC1)CCCCO | C10H13FO
